US08664255B2
Sample protocol for Claisen Condensations—Preparation of (Z)-methyl 4-(2-chloro-6-fluoro-3-methylphenyl)-2-hydroxy-4-oxobut-2-enoate:
2′-chloro-6′-fluoro-3′-methylacetophenone (1.00 g, 5.36 mmol) was dissolved in 2.0 mL anhydrous methanol under N2 and subjected to the addition of 25% sodium methoxide in methanol (2.2 equiv, 11.8 mmol, 2.7 mL) via syringe. The nearly colorless solution was stirred for 30 min and then dimethyl oxalate (2.2 equiv, 11.8 mmol, 1.39 g) was added. The cloudy white mixture was stirred at 30° C. After 15 h, the cloudy white mixture was quenched with 2.0 mL 2 M HCl(aq) and extracted with 3×10 mL EtOAc. The light yellow organics were washed with 10 mL saturated brine solution, dried over anhydrous MgSO4 for 5 min, filtered, and concentrated in vacuo to afford a light yellow solid. Silica gel chromatography followed by recrystallization from hot hexanes/dichloromethane (ca. 5:1) afforded the desired product as analytically pure white needles (688 mg, 47% yield).

reactant | 2′-chloro-6′-fluoro-3′-methylacetophenone | 5.36 mmol, 1.00 g | ClC1=C(C(=CC=C1C)F)C(C)=O | C9H8ClFO
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethyl oxalate | 11.8 mmol, 1.39 g, 2.2 equiv | C(C(=O)OC)(=O)OC | C4H6O4
solvent | methanol | 2.0 mL | CO | CH4O
solvent | methanol | 11.8 mmol, 2.7 mL, 2.2 equiv | CO | CH4O
product | (Z)-methyl 4-(2-chloro-6-fluoro-3-methylphenyl)-2-hydroxy-4-oxobut-2-enoate | ClC1=C(C(=CC=C1C)F)C(\C=C(\C(=O)OC)/O)=O | C12H10ClFO4
